US06337328B1
2-Hydroxy-2-(3′-chlorophenyl)-3,5,5-trimethylmorpholine:
To a solution of 3′-chloro-2-bromo-propiophenone (61.2 g, 247 mmol) in acetonitrile (752 mL) was added 2-amino-2-methyl-1-propanol (56.5 g, 630 mmol). The reaction mixture was allowed to reflux for 8 hours, then slowly cooled to room temperature. The solution was concentrated in vacuo to provide a yellow solid. The crude material was dissolved in 600 mL of ethyl acetate and washed with water (300 mL×2). The ethyl acetate layer was dried (MgSO4), filtered, and concentrated in vacuo to give the product in 90% yield. 1H NMR (CDCl3) δ0.82 (d, J=6.6 Hz, 3H), 1.07 (s, 3H), 1.39 (s, 3H), 3.19 (q, J=6.5 Hz, 1H), 3.42 (d, J=11.2 Hz, 1H), 3.83 (d, J=11.2 Hz, 2H), 7.2-7.65 (m, 4H).

reactant | 3′-chloro-2-bromo-propiophenone | 247 mmol, 61.2 g | ClC=1C=C(C=CC1)C(C(C)Br)=O | C9H8BrClO
reactant | 2-amino-2-methyl-1-propanol | 630 mmol, 56.5 g | NC(CO)(C)C | C4H11NO
solvent | acetonitrile | 752 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-2-(3′-chlorophenyl)-3,5,5-trimethylmorpholine | 90% yield | OC1(C(NC(CO1)(C)C)C)C1=CC(=CC=C1)Cl | C13H18ClNO2
